US07989461B2
Raney Nickel 2800, slurry in H2O, active catalyst (2.5 g, 43 mmol) (wet weight) was rinsed off with ethanol and added to a suspension of 7-(4-methoxybenzyl)-4-chloro-3-(chloromethyl)-1,7-naphthyridin-8(7H)-one (1.00 g, 2.9 mmol) in 50 ml of EtOH. The reaction was stirred at RT for 30 min and then filtered off through a small pad of celite. The filtrate was concentrated under reduced pressure to give 7-(4-methoxybenzyl)-4-chloro-3-methyl-1,7-naphthyridin-8(7H)-one as a clear film. MS (M+H)+ 315.

reactant | 7-(4-methoxybenzyl)-4-chloro-3-(chloromethyl)-1,7-naphthyridin-8(7H)-one | 2.9 mmol, 1.00 g | COC1=CC=C(CN2C=CC=3C(=C(C=NC3C2=O)CCl)Cl)C=C1 | C17H14Cl2N2O2
catalyst | Raney Nickel | [Ni] | Ni
solvent | H2O | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | EtOH | 50 ml | CCO | C2H6O
product | 7-(4-methoxybenzyl)-4-chloro-3-methyl-1,7-naphthyridin-8(7H)-one | COC1=CC=C(CN2C=CC=3C(=C(C=NC3C2=O)C)Cl)C=C1 | C17H15ClN2O2
